US08877780B2
A stirred mixture of 4-(ethylthio)benzoic acid (0.36 g, 2.00 mmol) and CDI (0.34 g, 2.10 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.670 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×100 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (hexanes/EtOAc, gradient, product eluted at 95% EtOAc). The product fractions were combined and concentrated to give 4-ethylsulfanyl-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (0.37 g, 61% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 4.03 min (99.73%); mp: 135-137° C.; 1H NMR (DMSO-d6) δ 1.27 (t, J=7.3 Hz, 3H), 1.89 (s, 3H), 1.95-2.11 (m, 1H), 2.53-2.61 (m, 2H), 2.61-2.77 (m, 1H), 3.06 (q, J=7.3 Hz, 2H), 4.61 (d, J=5.7 Hz, 2H), 7.38 (d, J=8.3 Hz, 2H), 7.72-7.88 (m, 5H), 9.18 (t, J=5.9 Hz, 1H), 11.01 (s, 1H); 13C NMR (DMSO-d6) δ 13.92, 21.02, 25.19, 28.57, 29.11, 42.58, 58.76, 121.60, 123.18, 126.32, 127.83, 129.59, 130.38, 131.38, 133.38, 141.22, 147.51, 165.86, 167.73, 167.88, 172.13, 172.19; LCMS: MH=466; Anal Calcd for C21H23N3O5S+0.3H2O: C, 61.21; H, 5.05; N, 8.92. Found: C, 61.27; H, 5.13; N, 8.80.

reactant | 4-(ethylthio)benzoic acid | 2.00 mmol, 0.36 g | C(C)SC1=CC=C(C(=O)O)C=C1 | C9H10O2S
reactant | CDI | 2.10 mmol, 0.34 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 2.00 mmol, 0.670 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-ethylsulfanyl-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.37 g, 61% yield | C(C)SC1=CC=C(C(=O)NCC=2C=C3C(N(C(C3=CC2)=O)C2(C(NC(CC2)=O)=O)C)=O)C=C1 | C24H23N3O5S
